US03992535
4.8 gm (0.015 mol) of 4-hydroxy-2-methyl-2H-naphtho [2,1-e]-1,2thiazine-3-carboxylic acid methyl ester-1,1-dioxide were reacted with 2.11 gm (0.021 mol) of 3-amino-5-methyl-isoxazole in 250 ml of dry xylene analogous to Example 1, yielding 3.3 gm (57% of theory) of 4-hydroxy-2-methyl-N-(5-methyl-3-isoxazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 253° C, after recrystallization from xylene.

reactant | 4-hydroxy-2-methyl-2H-naphtho [2,1-e]-1,2thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 0.015 mol, 4.8 gm | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)C | C15H13NO5S
reactant | 3-amino-5-methyl-isoxazole | 0.021 mol, 2.11 gm | NC1=NOC(=C1)C | C4H6N2O
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(5-methyl-3-isoxazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | 3.3 gm, 57% | OC1=C(N(S(C2=C1C=CC1=CC=CC=C12)(=O)=O)C)C(=O)NC1=NOC(=C1)C | C18H15N3O5S
